US05409666
1-Chloromethylpyrene
Thionyl chloride (15 mL, 200 mmol) was added dropwise to a suspension of 1-hydroxymethylpyrene (9.3 g, 40 mmol) in dry benzene (150 mL) at 0° C. and the mixture was stirred at room temperature overnight. Evaporation of the solvent under reduced pressure gave a creamy-white solid, m.p. 146°-148° C., yield: 9.6 g, 96%.

reactant | Thionyl chloride | 200 mmol, 15 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-hydroxymethylpyrene | 40 mmol, 9.3 g | OCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C17H12O
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | 1-Chloromethylpyrene | ClCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C17H11Cl
